US05846982
5-(4,5-dihydrothiazol-5-yl)-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole
A mixture of 1.0 gm (4.2 mMol) 5-cyano-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole and 0.90 gm (11.7 mMol) 2-mercaptoethylamine in 20 mL ethanol was heated to reflux for 18 hours. The reaction mixture was cooled to room temperature and a colorless crystalline solid formed. The solid was isolated by filtration, washed with ethanol and dried under reduced pressure to provide 0.64 gm (51%) of the title compound.

reactant | 5-cyano-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 4.2 mMol, 1.0 gm | C(#N)C=1C=C2C(=CNC2=CC1)C=1CCN(CC1)C | C15H15N3
reactant | 2-mercaptoethylamine | 11.7 mMol, 0.90 gm | SCCN | C2H7NS
reactant | ethanol | 20 mL | C(C)O | C2H6O
product | 5-(4,5-dihydrothiazol-5-yl)-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 0.64 gm, 51% | S1C=NCC1C=1C=C2C(=CNC2=CC1)C=1CCN(CC1)C | C17H19N3S
